US07507740B2
Production of (2E)-4-[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]but-2-en-1-ol
70% Sodium bis(2-methoxyethoxy)aluminum hydride in toluene solution (0.8 mL) was dissolved in tetrahydrofuran (4 mL), and the solution was cooled to 0° C. A solution of 4-[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]but-2-yn-1-ol (262.4 mg) in tetrahydrofuran (10 mL) was added dropwise, and the mixture was stirred at 0° C. for 2 hrs. To the reaction mixture was added 10% aqueous potassium carbonate solution and the mixture was extracted with ethyl acetate. The organic layer washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was separated and purified by silica gel column chromatography (eluent, hexane:ethyl acetate=33:67→0:100) and crystallized from hexane/ethyl acetate to give the title compound (195.9 mg) as white crystals.

reactant | Sodium bis(2-methoxyethoxy)aluminum hydride | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | 4-[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]but-2-yn-1-ol | 262.4 mg | ClC=1C=C(C=CC1OC1=CC(=CC=C1)C(F)(F)F)NC=1C2=C(N=CN1)C=CN2CC#CCO | C23H16ClF3N4O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 0.8 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (2E)-4-[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]but-2-en-1-ol | 195.9 mg | ClC=1C=C(C=CC1OC1=CC(=CC=C1)C(F)(F)F)NC=1C2=C(N=CN1)C=CN2C/C=C/CO | C23H18ClF3N4O2
